US08486967B2
b) 1-(6-(Trifluoromethyl)pyrimidin-4-yl)piperidin-4-amine dihydrochloride
To a solution of tert-butyl 1-(6-(trifluoromethyl)pyrimidin-4-yl)piperidin-4-ylcarbamate (1.42 g, 4.1 mmol) in dichloromethane (20 mL) was added HCl (2 M in diethylether, 10.2 mL, 20.5 mmol) and the reaction mixture was stirred at room temperature for 18 hours. The mixture was filtered and the white precipitate was washed with dichloromethane and diethylether and dried to afford the title compound (1.27 g, 97%) as a white solid.

reactant | tert-butyl 1-(6-(trifluoromethyl)pyrimidin-4-yl)piperidin-4-ylcarbamate | 4.1 mmol, 1.42 g | FC(C1=CC(=NC=N1)N1CCC(CC1)NC(OC(C)(C)C)=O)(F)F | C15H21F3N4O2
reactant | HCl | 20.5 mmol, 2 M, 10.2 mL | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-(6-(Trifluoromethyl)pyrimidin-4-yl)piperidin-4-amine dihydrochloride | 1.27 g, 97% | Cl.Cl.FC(C1=CC(=NC=N1)N1CCC(CC1)N)(F)F | InChI=1S/C10H13F3N4.2ClH/c11-10(12,13)8-5-9(16-6-15-8)17-3-1-7(14)2-4-17;;/h5-7H,1-4,14H2;2*1H
